US07319104B2
Methyl 2-[4-(2-{[4-(5-isopropyl-1,2,4-oxadiazol-3-yl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate
A solution of methyl 2-[4-(2-aminoethyl)phenoxy]-2-methylpropanoate (1 g; 4.22 mmol) in dichloromethane (30 ml) was treated under nitrogen with 4-(5-isopropyl-1,2,4-oxadiazol-3-yl)benzaldehyde (0.96 g; 4.43 mmol), sodium triacetoxyborohydride (0.94 g; 4.43 mmol) and acetic acid (0.24 ml; 4.23 mmol). After stirring at rt overnight, the mixture was concentrated and partitioned between ethyl acetate and 1N NaOH. The organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by flash chromatography using an ethyl acetate-hexane gradient (20–70%) followed by a methanol-dichloromethane gradient (1–10%) afforded the title compound (1.5 g; 81% yield).

reactant | methyl 2-[4-(2-aminoethyl)phenoxy]-2-methylpropanoate | 4.22 mmol, 1 g | NCCC1=CC=C(OC(C(=O)OC)(C)C)C=C1 | C13H19NO3
reactant | 4-(5-isopropyl-1,2,4-oxadiazol-3-yl)benzaldehyde | 4.43 mmol, 0.96 g | C(C)(C)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C12H12N2O2
reactant | sodium triacetoxyborohydride | 4.43 mmol, 0.94 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 4.23 mmol, 0.24 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Methyl 2-[4-(2-{[4-(5-isopropyl-1,2,4-oxadiazol-3-yl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | 1.5 g, 81% yield | C(C)(C)C1=NC(=NO1)C1=CC=C(CNCCC2=CC=C(OC(C(=O)OC)(C)C)C=C2)C=C1 | C25H31N3O4
